US04141995
Aluminium chloride (39.9 g, 0.3 mole) was stirred in dichloromethane (133 ml) and treated with 3-carbomethoxybenzoyl chloride (59.5 g, 0.3 mole) (ice-bath cooling), over 0.5 hours.4-Ethylanisole (40.8 g, 0.3 mole) in dichloromethane (70 ml) was added to the stirred, cooled mixture, which was then stirred at room temperature overnight. The reaction mixture was processed as in Example 15 to leave 5-ethyl-2-methoxy-3'-carbomethoxybenzophenone. The latter was heated in 55% aqueous hydrogen bromide (500 ml) at 110°-120° C. for 5 hours. The mixture was evaporated to dryness to leave 5-ethyl-2-hydroxy-3'-carboxybenzophenone, which was characterised by having the correct C, H and N microanalysis. The latter carboxylic acid was then refluxed overnight in methanol (500 ml) containing concentrated sulphuric acid (5 ml), poured into water (1 L) and extracted with ether. The combined ethereal extracts were washed with saturated NaHCO3 solution, dried (MgSO4), filtered and evaporated to leave the desired ester, which gave a satisfactory microanalysis.

reactant | Aluminium chloride | 0.3 mole, 39.9 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | 3-carbomethoxybenzoyl chloride | 0.3 mole, 59.5 g | C(=O)(OC)C=1C=C(C(=O)Cl)C=CC1 | C9H7ClO3
reactant | 4-Ethylanisole | 0.3 mole, 40.8 g | C(C)C1=CC=C(C=C1)OC | C9H12O
solvent | dichloromethane | 133 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 70 ml | ClCCl | CH2Cl2
product | 5-ethyl-2-methoxy-3'-carbomethoxybenzophenone | C(C)C=1C=CC(=C(C(=O)C2=CC(=CC=C2)C(=O)OC)C1)OC | C18H18O4
